// Generated for: spectre
// Generated on: Oct 27 16:32:10 2024
// Design library name: FOLDED_CASCODE
// Design cell name: tb_stability
// Design view name: schematic
simulator lang=spectre
global 0
parameters R1 R2 IB
include "/pdk/tsmc180bcd_g2/pdk/pdk_1p6m/models/spectre/c018bcd_gen2_v1d6_usage.scs" section=pre_simu
include "/pdk/tsmc180bcd_g2/pdk/pdk_1p6m/models/spectre/c018bcd_gen2_v1d6_usage.scs" section=tt_lib

// Library name: FOLDED_CASCODE
// Cell name: OPP
// View name: schematic
subckt OPP INN INP VDD VOUT VSS
    M22 (net040 net032 VDD VDD) pch_mac l=5u w=1u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=4.8e-13 as=4.8e-13 pd=2.96u ps=2.96u nrd=0.27 \
        nrs=0.27 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M23 (net032 net010 net040 VDD) pch_mac l=500n w=5u multi=1 nf=1 \
        sigma=1 sd=540.0n ad=2.4e-12 as=2.4e-12 pd=10.96u ps=10.96u \
        nrd=0.054 nrs=0.054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M7 (VOUT net010 net26 VDD) pch_mac l=500n w=5u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=2.4e-12 as=2.4e-12 pd=10.96u ps=10.96u nrd=0.054 \
        nrs=0.054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M6 (net018 net010 net28 VDD) pch_mac l=500n w=5u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=2.4e-12 as=2.4e-12 pd=10.96u ps=10.96u nrd=0.054 \
        nrs=0.054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M4 (net28 net032 VDD VDD) pch_mac l=5u w=1u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=4.8e-13 as=4.8e-13 pd=2.96u ps=2.96u nrd=0.27 \
        nrs=0.27 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M5 (net26 net032 VDD VDD) pch_mac l=5u w=1u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=4.8e-13 as=4.8e-13 pd=2.96u ps=2.96u nrd=0.27 \
        nrs=0.27 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M21 (net039 net039 VSS VSS) nch_mac l=12.0u w=1u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=4.8e-13 as=4.8e-13 pd=2.96u ps=2.96u nrd=0.27 \
        nrs=0.27 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M24 (net010 net039 VSS VSS) nch_mac l=12.0u w=1u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=4.8e-13 as=4.8e-13 pd=2.96u ps=2.96u nrd=0.27 \
        nrs=0.27 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M3 (net18 net039 VSS VSS) nch_mac l=12.0u w=1u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=4.8e-13 as=4.8e-13 pd=2.96u ps=2.96u nrd=0.27 \
        nrs=0.27 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M1 (net28 INP net18 VSS) nch_mac l=1u w=10u multi=1 nf=2 sigma=1 \
        sd=540.0n ad=2.7e-12 as=4.8e-12 pd=11.08u ps=21.92u nrd=0.027 \
        nrs=0.027 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M2 (net26 INN net18 VSS) nch_mac l=1u w=10u multi=1 nf=2 sigma=1 \
        sd=540.0n ad=2.7e-12 as=4.8e-12 pd=11.08u ps=21.92u nrd=0.027 \
        nrs=0.027 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M11 (net035 net022 VSS VSS) nch_mac l=10u w=1u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=4.8e-13 as=4.8e-13 pd=2.96u ps=2.96u nrd=0.27 \
        nrs=0.27 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M10 (net036 net022 VSS VSS) nch_mac l=10u w=1u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=4.8e-13 as=4.8e-13 pd=2.96u ps=2.96u nrd=0.27 \
        nrs=0.27 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M8 (net022 net018 net036 VSS) nch_mac l=500n w=5u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=2.4e-12 as=2.4e-12 pd=10.96u ps=10.96u nrd=0.054 \
        nrs=0.054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M9 (VOUT net018 net035 VSS) nch_mac l=500n w=5u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=2.4e-12 as=2.4e-12 pd=10.96u ps=10.96u nrd=0.054 \
        nrs=0.054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    IB (VDD net039) isource dc=IB type=dc
    R1 (net032 net010) resistor r=R1
    R2 (net018 net022) resistor r=R2
ends OPP
// End of subcircuit definition.

// Library name: FOLDED_CASCODE
// Cell name: tb_stability
// View name: schematic
C1 (net3 0) capacitor c=1p
V4 (net4 0) vsource dc=900.0m mag=1 type=sine freq=1M
IPRB1 (Out net3) iprobe
V1 (net2 0) vsource dc=1.8 type=dc
I9 (net3 net4 net2 Out 0) OPP
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
stb stb start=1 stop=1G probe=IPRB1 localgnd=0 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
